US04289914
PREPARATION OF 2-METHYL-2-(t-AMYLPEROXY)-4-PENTANONE
A reaction mixture of 11.8 g (0.12 mole) of mesityl oxide, 30 g of Amberlyst 15® sulfonic acid type ion-exchange resin, and 15.6 g (0.15 mole) of 89% t-amyl hydroperoxide was stirred at 25°-30° C. for 20 hours and at 40° C. for 1 hour. Hexane was added and the ion-exchange resin separated by filtration. The filtrate was washed with sodium bisulfite solution and with water and the organic layer dried over anhydrous magnesium sulfate. The hexane solvent was removed under reduced pressure and the 11.7 g of recovered product identified by its infrared spectrum.

reactant | mesityl oxide | 0.12 mole, 11.8 g | O=C(C)C=C(C)C | C6H10O
reactant | t-amyl hydroperoxide | 0.15 mole, 15.6 g | C(C)(C)(CC)OO | C5H12O2
solvent | Hexane | CCCCCC | C6H14
product | 2-METHYL-2-(t-AMYLPEROXY)-4-PENTANONE | CC(C)(CC(C)=O)OOC(C)(C)CC | C11H22O3
